US06969725B2
In analogy to the procedure described in example 1 g], (S)-3-{2-chloro-4-[2-(2-methoxy-phenyl)-5-methyl-oxazol-4-ylmethoxy]-phenyl}-2-ethoxy-propionic acid methyl ester was treated with LiOH to obtain (S)-3-{2-chloro-4-[2-(2-methoxy-phenyl)-5-methyl-oxazol-4-ylmethoxy]-phenyl}-2-ethoxy-propionic acid as colorless foam.

reactant | (S)-3-{2-chloro-4-[2-(2-methoxy-phenyl)-5-methyl-oxazol-4-ylmethoxy]-phenyl}-2-ethoxy-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1)OCC=1N=C(OC1C)C1=C(C=CC=C1)OC)Cl)OCC)=O | C24H26ClNO6
reactant | LiOH | [Li+].[OH-]
product | (S)-3-{2-chloro-4-[2-(2-methoxy-phenyl)-5-methyl-oxazol-4-ylmethoxy]-phenyl}-2-ethoxy-propionic acid | ClC1=C(C=CC(=C1)OCC=1N=C(OC1C)C1=C(C=CC=C1)OC)C[C@@H](C(=O)O)OCC | C23H24ClNO6
